US04628057
(3RS)-2-[(4-Methoxybenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β -carboline-3-carboxylic acid
In the same manner as described in Example 16, (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (4.32 g), 10N NaOH (4 ml), carbon disulfide (1.4 ml), dimethylsulfoxide (20 ml) and 4-methoxybenzyl bromide (4.02 g) are reacted and treated. The product is crystallized from isopropyl ether to give the title compound (6.50 g, 79%) as colorless needles, m.p. 195°-196° C.

reactant | (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 4.32 g | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | NaOH | 10N, 4 ml | [OH-].[Na+]
reactant | carbon disulfide | 1.4 ml | C(=S)=S | CS2
reactant | 4-methoxybenzyl bromide | 4.02 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | (3RS)-2-[(4-Methoxybenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β -carboline-3-carboxylic acid | 6.50 g, 79% | COC1=CC=C(CSC(=S)N2CC=3NC4=CC=CC=C4C3CC2C(=O)O)C=C1 | C21H20N2O3S2
